US04906636
2-(3-Pyridylmethyl)-1-naphthol
A solution of 1-tetralone (5.85 g, 0.040 mole) and pyridine-3-carboxaldehyde (4.28 g, 0.40 mol) in t-butanol (400 mL) was treated with potassium t-butoxide (8.98 g, 0.080 mol) and the resulting mixture heated at reflux for 16 hours. After cooling to room temperature, the solution was poured into stirred 1.0N hydrochloric acid, and the pH of the resulting mixture was adjusted to 7.0 with 10% aqueous sodium hydroxide.

reactant | 1-tetralone | 0.040 mole, 5.85 g | C1(CCCC2=CC=CC=C12)=O | C10H10O
reactant | pyridine-3-carboxaldehyde | 0.40 mol, 4.28 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | potassium t-butoxide | 0.080 mol, 8.98 g | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | 1.0N | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | t-butanol | 400 mL | C(C)(C)(C)O | C4H10O
product | 2-(3-Pyridylmethyl)-1-naphthol | N1=CC(=CC=C1)CC1=C(C2=CC=CC=C2C=C1)O | C16H13NO
